US04883609
reacting 2,6-difluoroaniline with bromine in chloroform to yield 4-bromo-2,6-difluoroaniline;

reactant | 2,6-difluoroaniline | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | bromine | BrBr | Br2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-2,6-difluoroaniline | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
